US07598384B2
7,7-Dimethyl-5-oxo-2-piperidin-1-yl-5,6,7,8-tetrahydro-quinoline-3-carbonitrile
A solution of 7,7-dimethyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile (0.25 g, 1 mmol) and piperidine (0.32 ml, 4 mmol) in dry ethanol (3 ml) was stirred at reflux for 36 h. The reaction mixture was then evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (chloroform-methanol, 50:1) to give the title compound (0.08 g, 28%) as a colorless solid.

reactant | 7,7-dimethyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 1 mmol, 0.25 g | CC1(CC(C=2C=C(C(=NC2C1)SC)C#N)=O)C | C13H14N2OS
reactant | piperidine | 4 mmol, 0.32 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 7,7-Dimethyl-5-oxo-2-piperidin-1-yl-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 0.08 g, 28% | CC1(CC(C=2C=C(C(=NC2C1)N1CCCCC1)C#N)=O)C | C17H21N3O
